US07049312B1
5-Aminomethylindole (5.3 g, 0.036 mol) was mixed with acetic anhydride (13 ml) and kept at room temperature for 3 h. The solvent was removed under reduced pressure and the residue was stirred with toluene. The precipitated solid was collected by filtration to yield 6.1 g (89%) of 5-acetaminomethylindole.

reactant | 5-Aminomethylindole | 0.036 mol, 5.3 g | NCC=1C=C2C=CNC2=CC1 | C9H10N2
reactant | acetic anhydride | 13 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-acetaminomethylindole | 6.1 g, 89% | N(C(=O)C)CC=1C=C2C=CNC2=CC1 | C11H12N2O
